US05811459
Methyl 4-[2-(3-benzyloxy-2-pyridyl)ethenyl]benzoate (2.0 g, 5.8 nnol) was partially dissolved in EtOAc (20 ml) and EtOH (10 ml). The reaction vessel was flushed with argon, palladium-on-carbon (0.2 g, 10%) was added and the reaction was flushed with argon followed by hydrogen. The reaction was stirred at ambient temperature for 18 hours, filtered and evaporated to give methyl 4-[2-(3-hydroxy-2-pyridyl)ethyl]benzoate as a pale orange solid (1.3 g, 90%) which was used without further purification.

reactant | Methyl 4-[2-(3-benzyloxy-2-pyridyl)ethenyl]benzoate | 2.0 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C=CC1=CC=C(C(=O)OC)C=C1 | C22H19NO3
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 ml | CCO | C2H6O
product | methyl 4-[2-(3-hydroxy-2-pyridyl)ethyl]benzoate | 1.3 g, 90% | OC=1C(=NC=CC1)CCC1=CC=C(C(=O)OC)C=C1 | C15H15NO3
